US07345180B2
Sodium hydride (115 mg) was added to a solution of benzyl 1H-indole-5-carboxylate (600 mg) in N,N-dimethylformamide (2 ml) with ice cooling, and the mixture was stirred for 30 minutes. t-Butyl bromoacetate (562 mg) was added thereto and stirred for 2 hours. Water was added thereto, and the aqueous phase was neutralized and then extracted with dichloromethane. The organic phase was dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give benzyl 1-t-butoxycarbonylmethyl-1H-indole-5-carboxylate (944 mg, Y.: quant.).

reactant | Sodium hydride | 115 mg | [H-].[Na+]
reactant | benzyl 1H-indole-5-carboxylate | 600 mg | N1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | t-Butyl bromoacetate | 562 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | benzyl 1-t-butoxycarbonylmethyl-1H-indole-5-carboxylate | 944 mg | C(C)(C)(C)OC(=O)CN1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1 | C22H23NO4
